US07648989B2
Preparation of [5-Methyl-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid tert-butyl ester
Sodium tert-butoxide (227 mg, 2.37 mmol) is dried under high vacuum at approximately 80° C. After purging with argon and cooling to RT, palladium acetate (39 mg, 0.17 mmol), rac-2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl (rac-BINAP, 54 mg, 0.09 mmol) and (2-chloro-5-methyl-pyridin-4-yl)-acetic acid tert-butyl ester (520 mg, 2.15 mmol) are added. The mixture is dissolved in dioxane (7 ml, degassed with three freeze-thaw cycles under HV/argon), and 1-methyl-piperazine (237 mg, 2.37 mmol) is added. The round bottom flask containing the reaction mixture is immersed into a pre-heated oil bath (T=85° C.). After 30 minutes, TLC analysis indicated almost complete conversion of starting materials. The reaction mixture is diluted with EtOAc and poured into a saturated aqueous NH4Cl solution. The organic layer is separated, washed with brine, dried over Na2SO4, and the solvent is evaporated. The residue is purified by FCC (CH2Cl2/MeOH, slow gradient from 98:2 to 90:10) to afford the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.43 (s, 9H), 2.14 (s, 3H), 2.34 (s, 3H), 2.51 (m, 4H), 3.44 (s, 2H), 3.49 (m, 4H), 6.51 (s, 1H), 7.96 (s, 1H). ES+−MS: 306.4 [M+H]+.

reactant | Sodium tert-butoxide | 2.37 mmol, 227 mg | CC(C)([O-])C.[Na+]
reactant | rac-2,2′-bis-diphenylphosphanyl-[1,1′]binaphthalenyl | 0.09 mmol, 54 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | (2-chloro-5-methyl-pyridin-4-yl)-acetic acid tert-butyl ester | 2.15 mmol, 520 mg | C(C)(C)(C)OC(CC1=CC(=NC=C1C)Cl)=O | C12H16ClNO2
reactant | 1-methyl-piperazine | 2.37 mmol, 237 mg | CN1CCNCC1 | C5H12N2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.17 mmol, 39 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [5-Methyl-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC(=NC=C1C)N1CCN(CC1)C)=O | C17H27N3O2
